US09403807B2
Step A: N-(1-(3-(4-chlorophenyl)-2-oxopentan-3-yl)-1H-indol-4-yl)methanesulfonamide
To a solution of methyl 2-(4-chlorophenyl)-2-(4-(methylsulfonamido)-1H-indol-1-yl)butanoate (1 g, 2.38 mmol), as described in Example 3 Step C, in THF (30 mL) was added CH3Li (3.2 mL, 4.76 mmol, 1.5 M in ether) dropwise at 0° C. and stirred for 0.5 h. The mixture was quenched with saturated ammonium chloride solution, and extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, filtered and evaporated. The residue was purified by silica gel chromatography eluting with PE/EA (15/1 to 6/1, v/v) to afford the title compound as a colorless amorphous solid. LC/MS m/z=427.1 [M+Na]+.

reactant | methyl 2-(4-chlorophenyl)-2-(4-(methylsulfonamido)-1H-indol-1-yl)butanoate | 2.38 mmol, 1 g | ClC1=CC=C(C=C1)C(C(=O)OC)(CC)N1C=CC2=C(C=CC=C12)NS(=O)(=O)C | C20H21ClN2O4S
reactant | CH3Li | 4.76 mmol, 1.5 M, 3.2 mL | C[Li]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | N-(1-(3-(4-chlorophenyl)-2-oxopentan-3-yl)-1H-indol-4-yl)methanesulfonamide | ClC1=CC=C(C=C1)C(C(C)=O)(CC)N1C=CC2=C(C=CC=C12)NS(=O)(=O)C | C20H21ClN2O3S
